US08372864B2
17.1.1: Methyl 7-(2-cyanophenyl)-1-oxo-2-(1-propylbutyl)-1,2,3,4-tetrahydroisoquinoline-5-carboxylate
Added to a solution of 0.4 g of methyl 7-bromo-1-oxo-2-(1-propylbutyl)-1,2,3,4-tetrahydroisoquinoline-5-carboxylate in 12.5 cm3 of dioxane and 2.5 cm3 of water, at a temperature close to 20° C., are 196 mg of sodium bicarbonate. The reaction medium is then degassed under an argon atmosphere, then 147.5 mg of 2-cyanophenylboronic acid and 96 mg of tetrakis(triphenylphosphine)palladium are added. The mixture is heated at 150° C. in a microwave oven for 4 minutes, cooled to a temperature close to 20° C. and filtered. The filtrate is taken up by 20 cm3 of dichloromethane and 20 cm3 of water. The organic phase is extracted, dried over anhydrous magnesium sulfate, filtered and concentrated under reduced pressure (5 kPa). The residual solution (around 3 cm3) is purified by flash chromatography over silica (column: 50 g; spherical silica of BP-SUP type, partical size: 20-40 μm; eluent: 80% heptane/20% ethyl acetate then 60% heptane/40% ethyl acetate then 50% heptane/50% ethyl acetate). After concentrating the fractions under reduced pressure, 178 mg of methyl 7-(2-cyanophenyl)-1-oxo-2-(1-propylbutyl)-1,2,3,4-tetrahydroisoquinoline-5-carboxylate are obtained in the form of a colorless oil.

reactant | methyl 7-bromo-1-oxo-2-(1-propylbutyl)-1,2,3,4-tetrahydroisoquinoline-5-carboxylate | 0.4 g | BrC=1C=C(C=2CCN(C(C2C1)=O)C(CCC)CCC)C(=O)OC | C18H24BrNO3
reactant | sodium bicarbonate | 196 mg | C([O-])(O)=O.[Na+]
solvent | dioxane | 12.5 cm3 | O1CCOCC1 | C4H8O2
solvent | water | 2.5 cm3 | O | H2O
product | Methyl 7-(2-cyanophenyl)-1-oxo-2-(1-propylbutyl)-1,2,3,4-tetrahydroisoquinoline-5-carboxylate | C(#N)C1=C(C=CC=C1)C=1C=C(C=2CCN(C(C2C1)=O)C(CCC)CCC)C(=O)OC | C25H28N2O3
